US05688945
6-Amino-1-benzyloxy-2-chloro-3,4-dimethylbenzene
1-Benzyloxy-2-chloro-3,4-dimethyl-6-nitrobenzene (3.00 g, 10.3 mmol) was dissolved in MeOH (420 mL) and cooled to +2° C. Copper(I) chloride (6.11 g, 30.8 mmol) was added followed by KBH4 (3.88 g, 72.0 mmol) portionwise added at +2° to +4° C. during 1.5 h. The reaction mixture was stirred at +2° C. for 1 h and more KBH4 (400 mg, 7.41 mmol) was added. After 1 h at +2° C. additional KBH4 (120 mg, 2.22 mmol) was added and the stirring was continued for another 20 min. Filtration and evaporation of the solvent gave a residue which was extracted between EtOAc (400 mL) and water (75 mL). Drying (MgSO4) and evaporation afforded 2.94 of crude product. Purification by flash column chromatography (SiO2, CHCl3) yielded the title compound (2.14 g). Mp: 57°-58° C.; 1H NMR (DMSO-d6): δ 7.54 (d, J=6.5 Hz, 2H), 7.42-7.34 (m, 3H), 6.52 (s, 1H), 4.83 (s, 2H), 4.79 (s, 2H), 2.12 (s, 6H); 13C NMR (DMSO-d6): δ 140.00, 138.91, 137.30, 133.00, 128.27, 128.22, 127.91, 127.33, 121.23, 115.35, 72.73, 20.24, 15.45; MS (EI, 70 eV): m/z (rel.int.) 286/284 (M+23,42/100).

reactant | 1-Benzyloxy-2-chloro-3,4-dimethyl-6-nitrobenzene | 10.3 mmol, 3.00 g | C(C1=CC=CC=C1)OC1=C(C(=C(C=C1[N+](=O)[O-])C)C)Cl | C15H14ClNO3
solvent | MeOH | 420 mL | CO | CH4O
catalyst | Copper(I) chloride | 30.8 mmol, 6.11 g | [Cu]Cl
product | 6-Amino-1-benzyloxy-2-chloro-3,4-dimethylbenzene | 2.14 g | NC1=CC(=C(C(=C1OCC1=CC=CC=C1)Cl)C)C | C15H16ClNO
